US06720320B2
2-(N,N-dimethylsulfamoyl)-4-hydroxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(N,N-dimethylsulfamoyl)-4-methoxybenzo(b)furan (1.30 g) and boron tribromide (2.6 ml), the title compound (1.20 g) was obtained as colorless crystals, melting point 150-153° C.

reactant | 2-(N,N-dimethylsulfamoyl)-4-methoxybenzo(b)furan | 1.30 g | CN(S(=O)(=O)C1=CC2=C(O1)C=CC=C2OC)C | C11H13NO4S
reactant | boron tribromide | 2.6 ml | B(Br)(Br)Br | BBr3
product | 2-(N,N-dimethylsulfamoyl)-4-hydroxybenzo(b)furan | 1.20 g | CN(S(=O)(=O)C1=CC2=C(O1)C=CC=C2O)C | C10H11NO4S
